J113 supported-region boundary
* OpenCircuit Model Factory JFET manual path v0.1.0
* Original work generated from public factual specifications.
* This model is not a copy of, or adaptation from, any vendor SPICE model.
* Source: https://www.onsemi.cn/pub/Collateral/MMBFJ113-D.PDF
* Revision: Rev. 5, March 2023
* Fit: native ngspice-46 in scipy.optimize.least_squares, diff_step=1e-4
* Node order: J<ref> drain gate source OC_J113
.model OC_J113 NJF (
+ VTO=-1.9275001829e+00 BETA=5.4935604876e-03 LAMBDA=7.4956454430e-03 B=1.0000000000e+00
+ RD=2.5000000000e+01 RS=2.5000000000e+01
+ CGS=1.0000000000e-15 CGD=1.0000000000e-15 PB=1.0 M=0.5 FC=0.5
+ IS=1.0000000000e-20 N=1.0 TNOM=27
+)
.temp 25
J1 d g 0 OC_J113
VD d 0 DC 15
VG g 0 DC -1.5
.op
.end
