OpenCircuit factory test: MMBF170LT1G RDS(on)
* OpenCircuit Model Factory v0.1.0 bulk adapter
* Original work generated from public factual specifications.
* This model is not copied or adapted from any vendor SPICE model.
* Source: https://jlcpcb.com/api/file/downloadByFileSystemAccessId/8586177094799384576
* Revision: MMBF170LT1/D, Rev. 9, August 2013
.model OC_ONSEMI_MMBF170LT1G VDMOS( VTO=3.0000000000e0 KP=4.4444444444e-1 THETA=0.0000000000e0 LAMBDA=3.0000000000e-3 RD=2.4750000000e0 RS=9.0000000000e-1 RG=1.0000000000e-4 RDS=1e9 CGS=1.0000000000e-11 CGDMAX=5.0000000000e-11 CGDMIN=5.0000000000e-11 CJO=1.5000000000e-10 IS=1.0000000000e-12 N=1.5000000000e0 RB=9.0000000000e-1)

.temp 25
M1 d1 g1 0 OC_ONSEMI_MMBF170LT1G
ID1 0 d1 DC 2.0000000000e-1
VG1 g1 0 DC 1.0000000000e1
.op
.end
