OpenCircuit factory test: MMBT3906LT1G DC gain
* OpenCircuit Model Factory v0.1.0 bulk adapter
* Original work generated from public factual specifications.
* This model is not copied or adapted from any vendor SPICE model.
* Source: https://jlcpcb.com/api/file/downloadByFileSystemAccessId/8586176242927718400
* Revision: December 2013, Rev. 11
.model OC_ONSEMI_MMBT3906LT1G PNP(IS=1.4707904371e-14 BF=3.2249498355e2 VAF=1.0000000000e2 IKF=3.4067331861e-2 ISE=1.4187289251e-13 NE=1.5000000000e0 NF=1.0000000000e0 RB=1.0000000000e1 RC=1.0000000000e-1 RE=5.0000000000e-2 CJE=1.0000000000e-12 CJC=1.0000000000e-12 TF=1.0000000000e-9)

.temp 25
VCG1 cg1 0 DC -1.0000000000e0
IBG1 0 bg1 DC -5.5555555556e-6
QG1 cg1 bg1 0 OC_ONSEMI_MMBT3906LT1G
VCG2 cg2 0 DC -1.0000000000e0
IBG2 0 bg2 DC -5.7142857143e-5
QG2 cg2 bg2 0 OC_ONSEMI_MMBT3906LT1G
VCG3 cg3 0 DC -1.0000000000e0
IBG3 0 bg3 DC -1.8750000000e-4
QG3 cg3 bg3 0 OC_ONSEMI_MMBT3906LT1G
VCG4 cg4 0 DC -1.0000000000e0
IBG4 0 bg4 DC -4.0000000000e-4
QG4 cg4 bg4 0 OC_ONSEMI_MMBT3906LT1G
VCG5 cg5 0 DC -1.0000000000e0
IBG5 0 bg5 DC -1.5384615385e-3
QG5 cg5 bg5 0 OC_ONSEMI_MMBT3906LT1G
VCG6 cg6 0 DC -1.0000000000e0
IBG6 0 bg6 DC -5.5555555556e-6
QG6 cg6 bg6 0 OC_ONSEMI_MMBT3906LT1G
VCG7 cg7 0 DC -1.0000000000e0
IBG7 0 bg7 DC -5.7142857143e-5
QG7 cg7 bg7 0 OC_ONSEMI_MMBT3906LT1G
VCG8 cg8 0 DC -1.0000000000e0
IBG8 0 bg8 DC -1.8750000000e-4
QG8 cg8 bg8 0 OC_ONSEMI_MMBT3906LT1G
VCG9 cg9 0 DC -1.0000000000e0
IBG9 0 bg9 DC -4.0000000000e-4
QG9 cg9 bg9 0 OC_ONSEMI_MMBT3906LT1G
VCG10 cg10 0 DC -1.0000000000e0
IBG10 0 bg10 DC -1.5384615385e-3
QG10 cg10 bg10 0 OC_ONSEMI_MMBT3906LT1G
.op
.end
